US04614534
19 g (0.075 mole) of 2,6-dichloro-4-trifluoromethyl-phenylhydrazine and 16 g (0.075 mole) of 3-dimethylamino-2-(1,2,4-triazol-1-yl)-acrylonitrile hydrochloride in 200 ml of ethanol are heated at 75° C. to 78° C. for 5 hours, with stirring. For working up, the solvent is distilled off and the residue is triturated with water and dried over clay. 26 g (96% of theory) of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(1,2,4-triazol-1-yl)-pyrazole of melting point 170°-174° C. are obtained.

reactant | 2,6-dichloro-4-trifluoromethyl-phenylhydrazine | 0.075 mole, 19 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 3-dimethylamino-2-(1,2,4-triazol-1-yl)-acrylonitrile hydrochloride | 0.075 mole, 16 g | Cl.CN(C=C(C#N)N1N=CN=C1)C
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(1,2,4-triazol-1-yl)-pyrazole | 26 g, 96% | NC1=C(C=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)N1N=CN=C1 | C12H7Cl2F3N6
